US04232035
2-[[O-[N-Methyl-N-(phenylthiosulfenyl)carbamoyl]oximino]]-3,5,5-trimethylthiazolidin-4-one was prepared according to the procedure described in Example I, by reacting 5.0 g (0.0287 m) of 3,5,5-trimethyl-2-oximinothiazolidin-4-one, 6.24 g (0.0287 m) of N-methyl-N-(phenylthiosulfenyl)carbamoyl fluoride and 2.9 g (0.0287 m) of triethylamine in 100 ml of dioxane. 2-[[O-[N-Methyl-N-(phenylthiosulfenyl)carbamoyl]oximino]]-3,5,5-trimethylthiazolidin-4-one was crystallized from isopropyl ether to yield 7.0 g of a white solid. m.p. 73°-74° C.

reactant | 3,5,5-trimethyl-2-oximinothiazolidin-4-one | 5.0 g | CN1C(SC(C1=O)(C)C)=NO | C6H10N2O2S
reactant | N-methyl-N-(phenylthiosulfenyl)carbamoyl fluoride | 6.24 g | CN(C(=O)F)SSC1=CC=CC=C1 | C8H8FNOS2
reactant | triethylamine | 2.9 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 2-[[O-[N-Methyl-N-(phenylthiosulfenyl)carbamoyl]oximino]]-3,5,5-trimethylthiazolidin-4-one | CN(C(=O)ON=C1SC(C(N1C)=O)(C)C)SSC1=CC=CC=C1 | C14H17N3O3S3
